US05387594
N-Pyrrolidinyl-4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzamide
760 [l (5.5 mmol) of triethylamine, 450 μl (5.5 mmol) of pyrrolidine and 50 ml of THF are introduced into a round-bottomed flask. 1.8 g (5 mmol) of 4-(3-tertbutyl-4-methoxybenzoyloxymethyl)benzoyl chloride, dissolved in 50 ml of THF, are added dropwise and the mixture is stirred at room temperature for 4 h. The reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated.

reactant | triethylamine | 5.5 mmol | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 5.5 mmol, 450 μl | N1CCCC1 | C4H9N
reactant | 4-(3-tertbutyl-4-methoxybenzoyloxymethyl)benzoyl chloride | 5 mmol, 1.8 g | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)Cl)C=C2)C=CC1OC | C20H21ClO4
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Pyrrolidinyl-4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzamide | N1(CCCC1)NC(C1=CC=C(C=C1)COC(C1=CC(=C(C=C1)OC)C(C)(C)C)=O)=O | C24H30N2O4
